US06288120B1
5-(tert-Butyl-dimethyl-silanyloxy)-pentan-2-one.
A solution of 3-acetyl-1-propanol (3.000 g, 29.37 mmol), tert-butyidimethylsilyl chloride (4.522 g, 30.00 mmol), and imidazole (5.004 g, 73.5 mmol) in DMF (40 mL) was heated at 40° C. for 5 h and was stirred at room temperature for 66 h. Water (60 mL) was added and the product was extracted into EtOAc (4×50 mL). The combined organic extracts were washed with water (2×50 mL), dried over MgSO4, filtered, and concentrated. Purification by flash chromatography (hexanes:EtOAc 9:1) provided the title compound (3.722 g). 1H NMR (400 MHz, CDCl3) δ 3.59 (t, 2H), 2.49 (t, 2H), 2.13 (s, 3H), 1.76 (m, 2H), 0.86 (s, 9H), 0.02 (s, 6H); MS 217 (M+1).

reactant | 3-acetyl-1-propanol | 29.37 mmol, 3.000 g | C(C)(=O)CCCO | C5H10O2
reactant | tert-butyidimethylsilyl chloride | 30.00 mmol, 4.522 g | [Si](C)(C)(C(C)(C)C)Cl | C6H15ClSi
reactant | imidazole | 73.5 mmol, 5.004 g | N1C=NC=C1 | C3H4N2
reactant | Water | 60 mL | O | H2O
solvent | DMF | 40 mL | CN(C)C=O | C3H7NO
product | 5-(tert-Butyl-dimethyl-silanyloxy)-pentan-2-one | 3.722 g | C(C)(C)(C)[Si](OCCCC(C)=O)(C)C | C11H24O2Si
